US05919793
Using a similar procedure to that described in Example 10, but using 1-(4-bromophenoxy)-2-phenoxyethane as starting material in place of 1-(4-bromo-2,6-dimethylphenoxy)-2-methoxyethane and extracting the aqueous mixture obtained after diluting the reaction mixture with 2M aqueous sodium hydroxide with dichloromethane instead of diethyl ether, there was obtained 3-[2-(4-{2-phenoxyethoxy}phenyl)ethynyl]quinuclidin-3-ol (18% yield) as a solid, m.p. 207-208° C. (after recrystallisation from acetonitrile); microanalysis, found: C,74.7; H, 6.9; N, 3.8% C23H24NO3. 0.3H2O requires: C, 74.9; H, 7.0; N, 3.8%; NMR ([CD3 ]2SO): 1.2-1.4(1H,m), 1.5-1.65(1H,m), 1.7-2.0(3H,m), 2.55-2.75(4H,t), 2.75-2.9(1H,d), 3.0-3.15(1H,d), 4.2-4.4(4H,m), 5.5(1H,s), 6.9-7.05(5H,m) and 7.2-7.4(4H,m); m/z 364 (M+H).

reactant | 1-(4-bromophenoxy)-2-phenoxyethane | BrC1=CC=C(OCCOC2=CC=CC=C2)C=C1 | C14H13BrO2
reactant | 1-(4-bromo-2,6-dimethylphenoxy)-2-methoxyethane | BrC1=CC(=C(OCCOC)C(=C1)C)C | C11H15BrO2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | sodium hydroxide | 2M | [OH-].[Na+]
product | 3-[2-(4-{2-phenoxyethoxy}phenyl)ethynyl]quinuclidin-3-ol | 18% yield | O(C1=CC=CC=C1)CCOC1=CC=C(C=C1)C#CC1(CN2CCC1CC2)O | C23H25NO3
